US07576099B2
Ethyl 2-chloro-6-(2-cyclopropylethynyl)pyridine-3-carboxylate
Ethyl 2,6-dichloropyridine-3-carboxylate (2.0 g, 9.1 mmol), ethynylcyclopropane (1.6 mL of a 70% w/v solution in toluene, 13.63 mmol), copper(I) iodide (173 mg, 0.9 mmol), bis(triphenylphosphine) palladium(II) chloride (1.28 g, 1.82 mmol) were stirred in 40 mL triethylamine at room temperature for 24 h. The solvent was removed in vacuo and the residue was purified by column chromatography using 10-50% EtOAc/hexane to give the product (0.7 g, 31%) as a brown oil. m/z=250 (M+1).

reactant | Ethyl 2,6-dichloropyridine-3-carboxylate | 9.1 mmol, 2.0 g | ClC1=NC(=CC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | ethynylcyclopropane | C(#C)C1CC1 | C5H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.9 mmol, 173 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II) chloride | 1.82 mmol, 1.28 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Ethyl 2-chloro-6-(2-cyclopropylethynyl)pyridine-3-carboxylate | 0.7 g, 31% | ClC1=NC(=CC=C1C(=O)OCC)C#CC1CC1 | C13H12ClNO2
